US06855710B2
b) 4-(2-dimethylaminoethyloxy)-nitrobenzene
4.9 g (20 mmol) of 4-(2-bromoethyloxy)-nitrobenzene and 2.7 g (60 mmol) of dimethylamine in 50 ml of dimethylformamide are heated to 100° C. for 24 hours in a bomb tube. After removal of the solvent in vacuo the residue is taken up in water and extracted with dichloromethane. The organic phase is dried and concentrated by evaporation.

reactant | 4-(2-bromoethyloxy)-nitrobenzene | 20 mmol, 4.9 g | BrCCOC1=CC=C(C=C1)[N+](=O)[O-] | C8H8BrNO3
reactant | dimethylamine | 60 mmol, 2.7 g | CNC | C2H7N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-(2-dimethylaminoethyloxy)-nitrobenzene | CN(CCOC1=CC=C(C=C1)[N+](=O)[O-])C | C10H14N2O3
